US08034812B2
Production of N-(5-{[2-(acetylamino)imidazo[1,2-b]pyridazin-6-yl]oxy}-2-methylphenyl)-1-methyl-1H-imidazole-2-carboxamide
To a solution of N-[6-(3-amino-4-methylphenoxy)imidazo[1,2-b]pyridazin-2-yl]acetamide (150 mg, 0.50 mmol) in N,N-dimethylformamide (3.0 mL) were added 1-methyl-1H-imidazole-2-carboxylic acid (127 mg, 1.01 mmol), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (290 mg, 1.51 mmol) and 1-hydroxybenzotriazole (205 mg, 1.51 mmol), and the mixture was stirred at room temperature for 16 hr. Saturated aqueous sodium hydrogencarbonate solution was added to the reaction mixture, and the mixture was extracted with ethyl acetate/tetrahydrofuran, washed with saturated brine, dried over anhydrous sodium sulfate, and filtrated. The solvent was evaporated under reduced pressure, and the obtained residue was recrystallized from ethyl acetate/ethanol to give the title compound (115 mg, 56%) as a white powder.

reactant | N-[6-(3-amino-4-methylphenoxy)imidazo[1,2-b]pyridazin-2-yl]acetamide | 0.50 mmol, 150 mg | NC=1C=C(OC=2C=CC=3N(N2)C=C(N3)NC(C)=O)C=CC1C | C15H15N5O2
reactant | 1-methyl-1H-imidazole-2-carboxylic acid | 1.01 mmol, 127 mg | CN1C(=NC=C1)C(=O)O | C5H6N2O2
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 1.51 mmol, 290 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-hydroxybenzotriazole | 1.51 mmol, 205 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | N,N-dimethylformamide | 3.0 mL | CN(C=O)C | C3H7NO
product | N-(5-{[2-(acetylamino)imidazo[1,2-b]pyridazin-6-yl]oxy}-2-methylphenyl)-1-methyl-1H-imidazole-2-carboxamide | 115 mg, 56% | C(C)(=O)NC=1N=C2N(N=C(C=C2)OC=2C=CC(=C(C2)NC(=O)C=2N(C=CN2)C)C)C1 | C20H19N7O3
